US04803199
Alkylation of indole amide
Indolyl carboxylic acid amides as starting materials may be produced by reacting an indolyl carboxylic acid chloride in absolute methylene chloride with an amine in the presence of pyridine at -10° to 0°.

reactant | indolyl carboxylic acid chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | indole amide | N1C(=CC2=CC=CC=C12)C(=O)N | C9H8N2O
